US07678815B2
1-(3-Nitro-phenyl)-1H-[1,2,3]triazole
1-(3-Nitro-phenyl)-4-trimethylsilanyl-1H-[1,2,3]triazole (16.7 g, 64 mmol) tetrabutylammonium fluoride in THF (1M, 100 ml, 100 mmol) were stirred at room temperature for 24 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried with magnesium sulfate, filtered and evaporated. The crude product was purified by chromatography on silica gel (hexane/ethyl acetate 1:1) and the desired product was obtained as a brown solid (9.96 g, 82%), mp 80-83° C.

reactant | 1-(3-Nitro-phenyl)-4-trimethylsilanyl-1H-[1,2,3]triazole | 64 mmol, 16.7 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=NC(=C1)[Si](C)(C)C | C11H14N4O2Si
reactant | THF | 100 mmol, 1M, 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Nitro-phenyl)-1H-[1,2,3]triazole | [N+](=O)([O-])C=1C=C(C=CC1)N1N=NC=C1 | C8H6N4O2
